US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine (4.95 g, 11.3 mmol) (obtained as described in Reference Example 70(8)) in anhydrous tetrahydrofuran (100 ml) was added dropwise a suspension of lithium aluminium hydride (1.29 g, 33.9 mmol) in anhydrous tetrahydrofuran (250 ml) in an ice bath under an atmosphere of nitrogen and the mixture was stirred in an ice bath for 5 minutes. After checking the completion of the reaction, magnesium sulfate decahydrate was gradually added to the reaction mixture in an ice bath. After termination of foaming, the resulting mixture was stirred at room temperature for 1 hour. Ethyl acetate was gradually added to the reaction mixture. The resulting mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (3:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-oxazol-2-yl)azetidine (3.88 g, yield 84%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine | 11.3 mmol, 4.95 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)C(=O)OC | C24H28N2O4Si
reactant | lithium aluminium hydride | 33.9 mmol, 1.29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | magnesium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-oxazol-2-yl)azetidine | 3.88 g, yield 84% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)CO | C23H28N2O3Si
